US09193719B2
3-(tert-Butyl)-1-(6-methyl-5-((2-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one (0.18 g, 0.34 mmol) was dissolved in MeCN and treated with a HCl (4 M in dioxane) (0.25 mL, 1.0 mmol). The mixture was stirred at RT for 20 min. Sat. NaHCO3 (aq) (15 mL) was added and the suspension was extracted with EtOAc (5×15 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo. The residue was purified by silica gel chromatography (MeOH/DCM). The product was triturated with MeCN (5 mL) and sonicated for 5 min. The solid was isolated by filtration, redissolved in MeCN and water, frozen to −78° C., and lyophilized to afford 3-(tert-butyl)-1-(5-((2-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-methylpyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one (0.13 g, 82%) as an off white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.97 (s, 1H), 8.37 (d, J=5.7 Hz, 1H), 8.27 (s, 1H), 7.99 (s, 1H), 7.85 (d, J=8.8 Hz, 1H), 7.68 (d, J=8.8 Hz, 1H), 7.21 (d, J=2.4 Hz, 1H), 6.64 (dd, J=5.7, 2.4 Hz, 1H), 4.89 (t, J=5.3 Hz, 1H), 4.13 (t, J=5.6 Hz, 2H), 3.73 (q, J=5.5 Hz, 2H), 2.33 (s, 3H), 1.27 (s, 9H); MS (ESI) m/z: 436.2 (M+H+).

reactant | 3-(tert-Butyl)-1-(6-methyl-5-((2-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one | 0.34 mmol, 0.18 g | C(C)(C)(C)C1=NN(C(N1)=O)C1=NC(=C(C=C1)OC1=CC(=NC=C1)C=1C=NN(C1)CCOC1OCCCC1)C | C27H33N7O4
reactant | HCl | 1.0 mmol, 4 M, 0.25 mL | Cl | ClH
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | MeCN | CC#N | C2H3N
solvent | water | O | H2O
product | 3-(tert-butyl)-1-(5-((2-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-methylpyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one | 0.13 g, 82% | C(C)(C)(C)C1=NN(C(N1)=O)C1=NC(=C(C=C1)OC1=CC(=NC=C1)C=1C=NN(C1)CCO)C | C22H25N7O3
